US07582775B2
B. 3-(5-Methoxy-benzo[b]thiophen-2-yl)-pentan-3-ol
5-Methoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester (4.13 g, 17.5 mmol) in THF (100 mL) at −78° C. is treated with ethylmagnesium bromide (17.5 mL, 3.0 M). The reaction mixture is allowed to warm to RT over 30 min and is stirred for 10 min. The mixture is quenched with water (40 mL) and acidified with HCl (50 mL, 1.0 M). THF is removed under vacuum, and the residue is extracted with EtOAc (2×40 mL). The organic layer is dried over Na2SO4, concentrated, and purified using silica gel column chromatography (10% EtOAc/Hex) to give the title compound (4.53 g, 97%).

reactant | 5-Methoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester | 17.5 mmol, 4.13 g | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)OC | C12H12O3S
reactant | ethylmagnesium bromide | 3.0 M, 17.5 mL | C(C)[Mg]Br
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-(5-Methoxy-benzo[b]thiophen-2-yl)-pentan-3-ol | 4.53 g, 97% | COC1=CC2=C(SC(=C2)C(CC)(CC)O)C=C1 | C14H18O2S
